US07906517B2
Lithium aluminum hydride (1.4 g) is suspended in tetrahydrofuran (50 ml) and thereto is added dropwise a 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde oxime (5.7 g) in tetrahydrofuran (20 ml) under ice-cooling, and the mixture is stirred at room temperature overnight. To the reaction solution are added water (1.4 ml), a 2N-aqueous sodium hydroxide solution (2.8 ml) and water (2.8 ml) successively under ice-cooling, and the insoluble material is removed by filtration and the filtrate is concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (chloroform:ethyl acetate=10:1) to give (2-aminomethyl-4-trifluoromethyl-phenyl)-cyclopropylmethyl-propyl-amine as a crude product (5.1 g).

reactant | Lithium aluminum hydride | 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde oxime | 5.7 g | C1(CC1)CN(C1=C(C=NO)C=C(C=C1)C(F)(F)F)CCC | C15H19F3N2O
reactant | water | 1.4 ml | O | H2O
reactant | sodium hydroxide | 2.8 ml | [OH-].[Na+]
reactant | water | 2.8 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2-aminomethyl-4-trifluoromethyl-phenyl)-cyclopropylmethyl-propyl-amine | NCC1=C(C=CC(=C1)C(F)(F)F)N(CCC)CC1CC1 | C15H21F3N2
